* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 10814.55650983586
Fd1_1 0 s1 V1 540727.825491793
Gr1_1_1 0 s1 x1_a1 0 3302691257064.7295
Gr2_re_1_1 0 s1 x2_re_a1 0 41630593225.42522
Gr2_im_1_1 0 s1 x2_im_a1 0 274132587449.70755
Gr3_re_1_1 0 s1 x3_re_a1 0 41773558820.47892
Gr3_im_1_1 0 s1 x3_im_a1 0 33256631210.49921
Gr4_re_1_1 0 s1 x4_re_a1 0 3262569186478.3154
Gr4_im_1_1 0 s1 x4_im_a1 0 -7708708810096.001
Gr5_re_1_1 0 s1 x5_re_a1 0 -2086848239420.652
Gr5_im_1_1 0 s1 x5_im_a1 0 2897543011269.936
Gr6_re_1_1 0 s1 x6_re_a1 0 67724358336.24771
Gr6_im_1_1 0 s1 x6_im_a1 0 -81883349413.54955
Gr7_1_1 0 s1 x7_a1 0 2.679884008155348e+16
Gr8_1_1 0 s1 x8_a1 0 -23253382149567.316
Gr9_1_1 0 s1 x9_a1 0 -1.340035217909888e+16
Gr10_1_1 0 s1 x10_a1 0 -2.6787496490729692e+16
Gr11_1_1 0 s1 x11_a1 0 -9.973779042271834e+16
Gr12_re_1_1 0 s1 x12_re_a1 0 -1.578110945886422e+16
Gr12_im_1_1 0 s1 x12_im_a1 0 -2344436100397430.5
Gr13_1_1 0 s1 x13_a1 0 -780750141.4334025
Gr14_1_1 0 s1 x14_a1 0 18588295281.52627
Gr15_1_1 0 s1 x15_a1 0 -1.9681965474796195e+17
Gr16_1_1 0 s1 x16_a1 0 -1.7170418606416582e+17
Gr17_1_1 0 s1 x17_a1 0 4.0005396064137056e+17
Gr18_1_1 0 s1 x18_a1 0 1.5771126552349773e+17
Gr19_1_1 0 s1 x19_a1 0 1.351461409087772e+17
Gr20_1_1 0 s1 x20_a1 0 -9.845320953374693e+16
Gr21_1_1 0 s1 x21_a1 0 -9.463229535332435e+16
Gr22_1_1 0 s1 x22_a1 0 -7.093666843236686e-05
Gr23_1_1 0 s1 x23_a1 0 -0.08207455199970645
Gr24_1_1 0 s1 x24_a1 0 2.7688208777441484e+16
Gr25_1_1 0 s1 x25_a1 0 2.5409574923394064e+16
Gr26_1_1 0 s1 x26_a1 0 5390877726474704.0
Gr27_1_1 0 s1 x27_a1 0 -9644715496473466.0
Gr28_1_1 0 s1 x28_a1 0 -1.4846139966841874e+16
Gr29_1_1 0 s1 x29_a1 0 -1.2380876587580422e+16
Gr30_1_1 0 s1 x30_a1 0 -8212479635915291.0
Gd1_2 0 s1 p2 0 9315.476234327703
Fd1_2 0 s1 V2 465773.8117163852
Gr1_1_2 0 s1 x1_a2 0 2523403522760.819
Gr2_re_1_2 0 s1 x2_re_a2 0 29082366336.756985
Gr2_im_1_2 0 s1 x2_im_a2 0 200292489684.78195
Gr3_re_1_2 0 s1 x3_re_a2 0 30579411880.008656
Gr3_im_1_2 0 s1 x3_im_a2 0 26713720337.007915
Gr4_re_1_2 0 s1 x4_re_a2 0 2627965068110.082
Gr4_im_1_2 0 s1 x4_im_a2 0 -5874708038470.508
Gr5_re_1_2 0 s1 x5_re_a2 0 -1678874737443.7139
Gr5_im_1_2 0 s1 x5_im_a2 0 2187443133734.5896
Gr6_re_1_2 0 s1 x6_re_a2 0 55065184521.18222
Gr6_im_1_2 0 s1 x6_im_a2 0 -61158054517.728905
Gr7_1_2 0 s1 x7_a2 0 2.159803055807196e+16
Gr8_1_2 0 s1 x8_a2 0 -18462223508229.49
Gr9_1_2 0 s1 x9_a2 0 -1.1506251886345136e+16
Gr10_1_2 0 s1 x10_a2 0 -2.158909626195711e+16
Gr11_1_2 0 s1 x11_a2 0 -8.479568012239248e+16
Gr12_re_1_2 0 s1 x12_re_a2 0 -1.3618646777854696e+16
Gr12_im_1_2 0 s1 x12_im_a2 0 -2035314100506161.2
Gr13_1_2 0 s1 x13_a2 0 -681350419.9786416
Gr14_1_2 0 s1 x14_a2 0 16209824327.37854
Gr15_1_2 0 s1 x15_a2 0 -1.6989173412552992e+17
Gr16_1_2 0 s1 x16_a2 0 -1.481334169051306e+17
Gr17_1_2 0 s1 x17_a2 0 3.45234956653785e+17
Gr18_1_2 0 s1 x18_a2 0 1.3410453747208432e+17
Gr19_1_2 0 s1 x19_a2 0 1.1491781793501989e+17
Gr20_1_2 0 s1 x20_a2 0 -8.374698779555013e+16
Gr21_1_2 0 s1 x21_a2 0 -8.045051688287534e+16
Gr22_1_2 0 s1 x22_a2 0 -6.110364864365654e-05
Gr23_1_2 0 s1 x23_a2 0 -0.07069763352020242
Gr24_1_2 0 s1 x24_a2 0 2.388769255247964e+16
Gr25_1_2 0 s1 x25_a2 0 2.1777612925726468e+16
Gr26_1_2 0 s1 x26_a2 0 4584917528220087.0
Gr27_1_2 0 s1 x27_a2 0 -8318592648623199.0
Gr28_1_2 0 s1 x28_a2 0 -1.27664473871061e+16
Gr29_1_2 0 s1 x29_a2 0 -1.0625822686633832e+16
Gr30_1_2 0 s1 x30_a2 0 -7029797957131116.0
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.6342195317927334e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.3006540570237364e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 18914392418.5403
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -18914392418.5403
Rp2_im_im_a1 0 x2_im_a1 1.3006540570237364e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.876250697971165e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 15404579473.114056
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -15404579473.114056
Rp3_im_im_a1 0 x3_im_a1 1.876250697971165e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 8.22080012098325e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 9407017532.543262
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -9407017532.543262
Rp4_im_im_a1 0 x4_im_a1 8.22080012098325e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.0611376839081125e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 9682270015.45602
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -9682270015.45602
Rp5_im_im_a1 0 x5_im_a1 1.0611376839081125e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.5754971334380643e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 9778947870.491816
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -9778947870.491816
Rp6_im_im_a1 0 x6_im_a1 1.5754971334380643e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.664990027034694e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.229110410883353e-10
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 2.741652312474577e-10
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 1.665321019249629e-10
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 5.647164237742129e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 9.282480683838554e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 39139010.324654765
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -39139010.324654765
Rp12_im_im_a1 0 x12_im_a1 9.282480683838554e-10
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 2.7363963092554242e-09
Cx14_a1 x14_a1 0 1.0
Gx14_a1 0 x14_a1 p1 0 0.07071067811865475
Fx14_a1 0 x14_a1 V1 3.5355339059327378
Rp14_a1 0 x14_a1 1.8185697456957865e-09
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 9.328430153742045e-10
Cx16_a1 x16_a1 0 1.0
Gx16_a1 0 x16_a1 p1 0 0.07071067811865475
Fx16_a1 0 x16_a1 V1 3.5355339059327378
Rp16_a1 0 x16_a1 9.124553104713737e-10
Cx17_a1 x17_a1 0 1.0
Gx17_a1 0 x17_a1 p1 0 0.07071067811865475
Fx17_a1 0 x17_a1 V1 3.5355339059327378
Rp17_a1 0 x17_a1 9.232580825651901e-10
Cx18_a1 x18_a1 0 1.0
Gx18_a1 0 x18_a1 p1 0 0.07071067811865475
Fx18_a1 0 x18_a1 V1 3.5355339059327378
Rp18_a1 0 x18_a1 5.656538408497623e-10
Cx19_a1 x19_a1 0 1.0
Gx19_a1 0 x19_a1 p1 0 0.07071067811865475
Fx19_a1 0 x19_a1 V1 3.5355339059327378
Rp19_a1 0 x19_a1 5.631130507868518e-10
Cx20_a1 x20_a1 0 1.0
Gx20_a1 0 x20_a1 p1 0 0.07071067811865475
Fx20_a1 0 x20_a1 V1 3.5355339059327378
Rp20_a1 0 x20_a1 5.639441734557772e-10
Cx21_a1 x21_a1 0 1.0
Gx21_a1 0 x21_a1 p1 0 0.07071067811865475
Fx21_a1 0 x21_a1 V1 3.5355339059327378
Rp21_a1 0 x21_a1 5.647535534853871e-10
Cx22_a1 x22_a1 0 1.0
Gx22_a1 0 x22_a1 p1 0 0.07071067811865475
Fx22_a1 0 x22_a1 V1 3.5355339059327378
Rp22_a1 0 x22_a1 61574419.894264705
Cx23_a1 x23_a1 0 1.0
Gx23_a1 0 x23_a1 p1 0 0.07071067811865475
Fx23_a1 0 x23_a1 V1 3.5355339059327378
Rp23_a1 0 x23_a1 1810220.4318357424
Cx24_a1 x24_a1 0 1.0
Gx24_a1 0 x24_a1 p1 0 0.07071067811865475
Fx24_a1 0 x24_a1 V1 3.5355339059327378
Rp24_a1 0 x24_a1 2.742325518042932e-10
Cx25_a1 x25_a1 0 1.0
Gx25_a1 0 x25_a1 p1 0 0.07071067811865475
Fx25_a1 0 x25_a1 V1 3.5355339059327378
Rp25_a1 0 x25_a1 2.7406570361170453e-10
Cx26_a1 x26_a1 0 1.0
Gx26_a1 0 x26_a1 p1 0 0.07071067811865475
Fx26_a1 0 x26_a1 V1 3.5355339059327378
Rp26_a1 0 x26_a1 2.7408968524345396e-10
Cx27_a1 x27_a1 0 1.0
Gx27_a1 0 x27_a1 p1 0 0.07071067811865475
Fx27_a1 0 x27_a1 V1 3.5355339059327378
Rp27_a1 0 x27_a1 2.7411844775107516e-10
Cx28_a1 x28_a1 0 1.0
Gx28_a1 0 x28_a1 p1 0 0.07071067811865475
Fx28_a1 0 x28_a1 V1 3.5355339059327378
Rp28_a1 0 x28_a1 2.7414607320439993e-10
Cx29_a1 x29_a1 0 1.0
Gx29_a1 0 x29_a1 p1 0 0.07071067811865475
Fx29_a1 0 x29_a1 V1 3.5355339059327378
Rp29_a1 0 x29_a1 2.7416908400047114e-10
Cx30_a1 x30_a1 0 1.0
Gx30_a1 0 x30_a1 p1 0 0.07071067811865475
Fx30_a1 0 x30_a1 V1 3.5355339059327378
Rp30_a1 0 x30_a1 2.74181971853714e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 9315.476234327703
Fd2_1 0 s2 V1 465773.8117163852
Gr1_2_1 0 s2 x1_a1 0 2523403522760.819
Gr2_re_2_1 0 s2 x2_re_a1 0 29082366336.756985
Gr2_im_2_1 0 s2 x2_im_a1 0 200292489684.78195
Gr3_re_2_1 0 s2 x3_re_a1 0 30579411880.008656
Gr3_im_2_1 0 s2 x3_im_a1 0 26713720337.007915
Gr4_re_2_1 0 s2 x4_re_a1 0 2627965068110.082
Gr4_im_2_1 0 s2 x4_im_a1 0 -5874708038470.508
Gr5_re_2_1 0 s2 x5_re_a1 0 -1678874737443.7139
Gr5_im_2_1 0 s2 x5_im_a1 0 2187443133734.5896
Gr6_re_2_1 0 s2 x6_re_a1 0 55065184521.18222
Gr6_im_2_1 0 s2 x6_im_a1 0 -61158054517.728905
Gr7_2_1 0 s2 x7_a1 0 2.159803055807196e+16
Gr8_2_1 0 s2 x8_a1 0 -18462223508229.49
Gr9_2_1 0 s2 x9_a1 0 -1.1506251886345136e+16
Gr10_2_1 0 s2 x10_a1 0 -2.158909626195711e+16
Gr11_2_1 0 s2 x11_a1 0 -8.479568012239248e+16
Gr12_re_2_1 0 s2 x12_re_a1 0 -1.3618646777854696e+16
Gr12_im_2_1 0 s2 x12_im_a1 0 -2035314100506161.2
Gr13_2_1 0 s2 x13_a1 0 -681350419.9786416
Gr14_2_1 0 s2 x14_a1 0 16209824327.37854
Gr15_2_1 0 s2 x15_a1 0 -1.6989173412552992e+17
Gr16_2_1 0 s2 x16_a1 0 -1.481334169051306e+17
Gr17_2_1 0 s2 x17_a1 0 3.45234956653785e+17
Gr18_2_1 0 s2 x18_a1 0 1.3410453747208432e+17
Gr19_2_1 0 s2 x19_a1 0 1.1491781793501989e+17
Gr20_2_1 0 s2 x20_a1 0 -8.374698779555013e+16
Gr21_2_1 0 s2 x21_a1 0 -8.045051688287534e+16
Gr22_2_1 0 s2 x22_a1 0 -6.110364864365654e-05
Gr23_2_1 0 s2 x23_a1 0 -0.07069763352020242
Gr24_2_1 0 s2 x24_a1 0 2.388769255247964e+16
Gr25_2_1 0 s2 x25_a1 0 2.1777612925726468e+16
Gr26_2_1 0 s2 x26_a1 0 4584917528220087.0
Gr27_2_1 0 s2 x27_a1 0 -8318592648623199.0
Gr28_2_1 0 s2 x28_a1 0 -1.27664473871061e+16
Gr29_2_1 0 s2 x29_a1 0 -1.0625822686633832e+16
Gr30_2_1 0 s2 x30_a1 0 -7029797957131116.0
Gd2_2 0 s2 p2 0 10812.1553983881
Fd2_2 0 s2 V2 540607.769919405
Gr1_2_2 0 s2 x1_a2 0 3301488650897.2305
Gr2_re_2_2 0 s2 x2_re_a2 0 41634105998.27654
Gr2_im_2_2 0 s2 x2_im_a2 0 273952749661.64645
Gr3_re_2_2 0 s2 x3_re_a2 0 41756926152.49488
Gr3_im_2_2 0 s2 x3_im_a2 0 33267742132.006676
Gr4_re_2_2 0 s2 x4_re_a2 0 3261942111006.2734
Gr4_im_2_2 0 s2 x4_im_a2 0 -7705637848370.864
Gr5_re_2_2 0 s2 x5_re_a2 0 -2086465289920.8247
Gr5_im_2_2 0 s2 x5_im_a2 0 2896202315522.4653
Gr6_re_2_2 0 s2 x6_re_a2 0 67720996007.3478
Gr6_im_2_2 0 s2 x6_im_a2 0 -81859500287.98299
Gr7_2_2 0 s2 x7_a2 0 2.6792335951085096e+16
Gr8_2_2 0 s2 x8_a2 0 -23247347200978.12
Gr9_2_2 0 s2 x9_a2 0 -1.339738154616887e+16
Gr10_2_2 0 s2 x10_a2 0 -2.6780995328886996e+16
Gr11_2_2 0 s2 x11_a2 0 -9.971601492257926e+16
Gr12_re_2_2 0 s2 x12_re_a2 0 -1.5777598086468044e+16
Gr12_im_2_2 0 s2 x12_im_a2 0 -2343904875977156.0
Gr13_2_2 0 s2 x13_a2 0 -780560991.8722763
Gr14_2_2 0 s2 x14_a2 0 18583900333.636845
Gr15_2_2 0 s2 x15_a2 0 -1.967758226122274e+17
Gr16_2_2 0 s2 x16_a2 0 -1.7166600864475366e+17
Gr17_2_2 0 s2 x17_a2 0 3.999649353696338e+17
Gr18_2_2 0 s2 x18_a2 0 1.5767682952960432e+17
Gr19_2_2 0 s2 x19_a2 0 1.3511662677866198e+17
Gr20_2_2 0 s2 x20_a2 0 -9.84317018255355e+16
Gr21_2_2 0 s2 x21_a2 0 -9.461163591029355e+16
Gr22_2_2 0 s2 x22_a2 0 -7.092091865618071e-05
Gr23_2_2 0 s2 x23_a2 0 -0.08205632932512731
Gr24_2_2 0 s2 x24_a2 0 2.768209000676443e+16
Gr25_2_2 0 s2 x25_a2 0 2.5403935543851064e+16
Gr26_2_2 0 s2 x26_a2 0 5389675265321603.0
Gr27_2_2 0 s2 x27_a2 0 -9642583807266642.0
Gr28_2_2 0 s2 x28_a2 0 -1.4842852191347954e+16
Gr29_2_2 0 s2 x29_a2 0 -1.2378131244735844e+16
Gr30_2_2 0 s2 x30_a2 0 -8210655440657473.0
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.6342195317927334e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.3006540570237364e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 18914392418.5403
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -18914392418.5403
Rp2_im_im_a2 0 x2_im_a2 1.3006540570237364e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.876250697971165e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 15404579473.114056
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -15404579473.114056
Rp3_im_im_a2 0 x3_im_a2 1.876250697971165e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 8.22080012098325e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 9407017532.543262
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -9407017532.543262
Rp4_im_im_a2 0 x4_im_a2 8.22080012098325e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.0611376839081125e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 9682270015.45602
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -9682270015.45602
Rp5_im_im_a2 0 x5_im_a2 1.0611376839081125e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.5754971334380643e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 9778947870.491816
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -9778947870.491816
Rp6_im_im_a2 0 x6_im_a2 1.5754971334380643e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.664990027034694e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.229110410883353e-10
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 2.741652312474577e-10
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 1.665321019249629e-10
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 5.647164237742129e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 9.282480683838554e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 39139010.324654765
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -39139010.324654765
Rp12_im_im_a2 0 x12_im_a2 9.282480683838554e-10
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 2.7363963092554242e-09
Cx14_a2 x14_a2 0 1.0
Gx14_a2 0 x14_a2 p2 0 0.07071067811865475
Fx14_a2 0 x14_a2 V2 3.5355339059327378
Rp14_a2 0 x14_a2 1.8185697456957865e-09
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 9.328430153742045e-10
Cx16_a2 x16_a2 0 1.0
Gx16_a2 0 x16_a2 p2 0 0.07071067811865475
Fx16_a2 0 x16_a2 V2 3.5355339059327378
Rp16_a2 0 x16_a2 9.124553104713737e-10
Cx17_a2 x17_a2 0 1.0
Gx17_a2 0 x17_a2 p2 0 0.07071067811865475
Fx17_a2 0 x17_a2 V2 3.5355339059327378
Rp17_a2 0 x17_a2 9.232580825651901e-10
Cx18_a2 x18_a2 0 1.0
Gx18_a2 0 x18_a2 p2 0 0.07071067811865475
Fx18_a2 0 x18_a2 V2 3.5355339059327378
Rp18_a2 0 x18_a2 5.656538408497623e-10
Cx19_a2 x19_a2 0 1.0
Gx19_a2 0 x19_a2 p2 0 0.07071067811865475
Fx19_a2 0 x19_a2 V2 3.5355339059327378
Rp19_a2 0 x19_a2 5.631130507868518e-10
Cx20_a2 x20_a2 0 1.0
Gx20_a2 0 x20_a2 p2 0 0.07071067811865475
Fx20_a2 0 x20_a2 V2 3.5355339059327378
Rp20_a2 0 x20_a2 5.639441734557772e-10
Cx21_a2 x21_a2 0 1.0
Gx21_a2 0 x21_a2 p2 0 0.07071067811865475
Fx21_a2 0 x21_a2 V2 3.5355339059327378
Rp21_a2 0 x21_a2 5.647535534853871e-10
Cx22_a2 x22_a2 0 1.0
Gx22_a2 0 x22_a2 p2 0 0.07071067811865475
Fx22_a2 0 x22_a2 V2 3.5355339059327378
Rp22_a2 0 x22_a2 61574419.894264705
Cx23_a2 x23_a2 0 1.0
Gx23_a2 0 x23_a2 p2 0 0.07071067811865475
Fx23_a2 0 x23_a2 V2 3.5355339059327378
Rp23_a2 0 x23_a2 1810220.4318357424
Cx24_a2 x24_a2 0 1.0
Gx24_a2 0 x24_a2 p2 0 0.07071067811865475
Fx24_a2 0 x24_a2 V2 3.5355339059327378
Rp24_a2 0 x24_a2 2.742325518042932e-10
Cx25_a2 x25_a2 0 1.0
Gx25_a2 0 x25_a2 p2 0 0.07071067811865475
Fx25_a2 0 x25_a2 V2 3.5355339059327378
Rp25_a2 0 x25_a2 2.7406570361170453e-10
Cx26_a2 x26_a2 0 1.0
Gx26_a2 0 x26_a2 p2 0 0.07071067811865475
Fx26_a2 0 x26_a2 V2 3.5355339059327378
Rp26_a2 0 x26_a2 2.7408968524345396e-10
Cx27_a2 x27_a2 0 1.0
Gx27_a2 0 x27_a2 p2 0 0.07071067811865475
Fx27_a2 0 x27_a2 V2 3.5355339059327378
Rp27_a2 0 x27_a2 2.7411844775107516e-10
Cx28_a2 x28_a2 0 1.0
Gx28_a2 0 x28_a2 p2 0 0.07071067811865475
Fx28_a2 0 x28_a2 V2 3.5355339059327378
Rp28_a2 0 x28_a2 2.7414607320439993e-10
Cx29_a2 x29_a2 0 1.0
Gx29_a2 0 x29_a2 p2 0 0.07071067811865475
Fx29_a2 0 x29_a2 V2 3.5355339059327378
Rp29_a2 0 x29_a2 2.7416908400047114e-10
Cx30_a2 x30_a2 0 1.0
Gx30_a2 0 x30_a2 p2 0 0.07071067811865475
Fx30_a2 0 x30_a2 V2 3.5355339059327378
Rp30_a2 0 x30_a2 2.74181971853714e-10
.ENDS s_equivalent
